2112-03-07 07:21:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - A line placed, measuring BP higher than cuff
   - lisinopril restarted, but pt not given b/c of high likelihood of
   intubation
   - TTE Monday
   - conversation w daughter prior to intubation
   - ESR, thyroid function tests; ddx includes papillary thyroid
   carcinoma, viral pneumonias, vasculitides
   - Pm lytes showed persistent hypernatremia, mildly improved
   (148-->147)-- didnt get free water in setting of tenuous respiratory
   status on bipap
   - DNR but OK to intubate if thought to be temporary
   - OSH cultures NGTD ; need to redo sputum cultures here - induced
   - ESR 93 ; PM Creat bumped from 1.8 --> 2.3
   - intubated 20:30 for worsening hypoxia and confusion on Bipap -- right
   mainstem intubation, was desatting, and ETT pulled back slightly by RT
   before first CXR ; First CXR confirmed ETT was just past carina on R--
   changes seen in R lung b/c hypoventilated; ETT pulled back to 20cm (was
   originally at 25cm), and CXR re-taken w ETT ~3cm from carina
   - at time of intubation, pt given 1.3L NS for hypotension from
   sedation; hypotension resolved quickly
   - NG tube placed
   - ventilate at 6cc/kg ; on 100% fiO2
   - after ETT pulled back second time (to 20cm), pt was given extra
   sedation, and BPs dropped to 80s (MAP 50), so sedation decreased, and
   he was bolused 500cc NS, responded well
   - ESR 93 ; Anti-GBM and ANCA pending
   - 5:20am BPs dropping again to 80s systolic (mid 50s MAP)--> 200cc NS
   bolus and dropped sedation further
   Allergies:
   Darvon (Oral) (Propoxyphene Hcl)
   Confusion/Delir
   Tramadol
   Confusion/Delir
   Narcotic Analgesic   Non-Salicylate Comb
   Confusion
   Alte
   Last dose of Antibiotics:
   Vancomycin - [**2112-3-6**] 08:10 AM
   Piperacillin - [**2112-3-6**] 07:45 PM
   Ciprofloxacin - [**2112-3-7**] 12:35 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl (Concentrate) - 50 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2112-3-6**] 08:10 AM
   Furosemide (Lasix) - [**2112-3-6**] 09:20 AM
   Heparin Sodium (Prophylaxis) - [**2112-3-7**] 12:35 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-3-7**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**13**] AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 102 (89 - 119) bpm
   BP: 92/42(58) {90/42(57) - 189/86(116)} mmHg
   RR: 27 (18 - 37) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,426 mL
                                                                    464 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                  2,216 mL
                                                                    464 mL
   Blood products:
   Total out:
                                                                  2,925 mL
                                                                    295 mL
   Urine:
                                                                  2,925 mL
                                                                    295 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -499 mL
                                                                    169 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 480 (480 - 480) mL
   Vt (Spontaneous): 450 (450 - 718) mL
   PS : 15 cmH2O
   RR (Set): 14
   RR (Spontaneous): 30
   PEEP: 10 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   SpO2: 94%
   ABG: 7.40/41/78.[**Numeric Identifier 181**]/23/0
   Ve: 14 L/min
   PaO2 / FiO2: 113
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   215 K/uL
   9.7 g/dL
   106 mg/dL
   2.3 mg/dL
   23 mEq/L
   4.2 mEq/L
   59 mg/dL
   114 mEq/L
   147 mEq/L
   29.6 %
   17.8 K/uL
        [image002.jpg]
                             [**2112-3-6**]  12:33 AM
                             [**2112-3-6**]  12:41 AM
                             [**2112-3-6**]  08:13 AM
                             [**2112-3-6**]  03:48 PM
                             [**2112-3-6**]  06:56 PM
                             [**2112-3-6**]  08:27 PM
                             [**2112-3-6**]  09:38 PM
                             [**2112-3-6**]  11:08 PM
                             [**2112-3-7**]  01:38 AM
                             [**2112-3-7**]  03:00 AM
   WBC
   22.7
   17.8
   Hct
   32.8
   29.6
   Plt
   228
   215
   Cr
   1.8
   2.3
   2.3
   TCO2
   24
   24
   26
   25
   27
   25
   26
   Glucose
   107
   104
   106
   Other labs: PT / PTT / INR:12.9/29.4/1.1, ALT / AST:39/28, Alk Phos / T
   Bili:84/0.8, Differential-Neuts:94.8 %, Lymph:3.0 %, Mono:2.0 %,
   Eos:0.1 %, Lactic Acid:1.5 mmol/L, Albumin:2.8 g/dL, LDH:466 IU/L,
   Ca++:7.9 mg/dL, Mg++:2.1 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   85yo M with h/o HTN, CRI, anxiety, and recent admission at OSH for
   gastroenteritis, who is transfered from an OSH with worsening acute
   hypoxic respiratory failure and PNA.
   .
   # Hypoxic Respiratory Failure: Patient likely hypoxic secondary to PNA
   from aspiration per OSH records. Given progression, concern exists for
   possible [**Doctor Last Name 11**]/ARDS. His hypoxia is presently refractory to 70% FiO2,
   likely related to a shunt (?intracardiac vs airspace disease preventing
   sufficient recruitment). Further workup for causes of hypoxia (eg PE)
   limited given CRI so unable to obtain CTA. Some mention of improvement
   with diuresis today but no record re: LV function. Patient noted to
   desat on exam when laying flat with resolution when sitting up,
   concerning for CHF exacerbation. However was hypotensive after
   diuresis, without any improvement in saturation. Patient had received
   steroids at OSH. Given that unlikely COPD exacerbation given no prior
   history of COPD and lack of wheezing on exam, will not continue
   steroids.
   - TTE with bubble study in am
   - manipulate vent settings
     - want to make patient more passive .
     - increase PEEP, aware that it can drop preload and possibly
   necessitate pressor initiation.
     - consider ARDS and restricting tidal volume to 4-6 cc/kg.
   - Considering Chest CT if stable and no other diagnostic clues
   - Continue broad spectrum abx with Vanc/Zosyn/cipro for now.
   - Endotracheal sputum cultures, blood cultures.
   - Follow up cultures from OSH inc legionella, mycoplasma.
   - Could consider V/Q scan if high suspicion for PE (currently with PNA
   this is less likely so will hold for now).
   - Keep net even for now given h/o CRI.
   - Check BNP, was 228 at OSH on [**3-5**].
   .
   # Hypotension
   - Volume expansion with 1/2NS to avoid making acidotic
   .
   # Hypernatremia
 new, with hyperchloremic
   - free water flushes, 150 cc q4
   .
   # Leukocytosis: Pt had leukocytosis on admission to OSH of 14. This has
   bumped to 27.9 at time of transfer.  Could represent progression of
   infection/PNA, but more likely a result of IV steroids given at OSH.
   - Trend WBC.
   - D/c steroids as not indicated since presentation not c/w COPD
   exacerbation.
   .
   # Chronic Renal Insufficiency: Baseline creatinine of 2 per OSH records
   and currently 2.3, from 1.9 at OSH at time of transfer.
   - Trend BUN/Cr.
   - Renally dose meds.
   - Avoid nephrotoxins.
   - Monitor UOP.
   .
   # Aspiration: this is likely the source of his PNA based on OSH records
   and failed limited S+S eval at OSH when on bipap.
   - Tube feeds with nutrition recs
   - Treating aspiration PNA with abx as above.
   - When extubated will need S+S eval prior to eating.
   - HOB elevation, aspiration precautions..
   .
   # HTN: Currently patient's BP is 148/74.  At home patient is on
   lisinopril. Repeat creatinine here 1.8. Since he is at his baseline
   creatinine, will continue his current regimen of lisinopril 10 mg daily
   starting in AM.
   .
   # Hyperlipidemia: Continue current regimen of pravastatin 10 mg QHS.
   .
   #  FEN: IVF bolus PRN for low UOP, replete electrolytes PRN, NPO.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2112-3-6**] 05:46 AM
   Arterial Line - [**2112-3-6**] 01:29 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2112-03-08 07:25:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 85yo M with h/o HTN, CRI, anxiety, and recent
   admission at OSH for gastroenteritis, who is transfered from an OSH
   with worsening acute hypoxic respiratory failure and PNA.
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2112-3-7**] 09:23 AM
 PICC LINE - START [**2112-3-7**] 11:30 AM
 BLOOD CULTURED - At [**2112-3-7**] 08:53 PM
 URINE CULTURE - At [**2112-3-7**] 10:48 PM
   - PICC placed
   - echo: Mild symmetric left ventricular hypertrophy with normal
   biventricular systolic function. High estimated cardiac output.
   Moderate pulmonary artery systolic hypertension. No intracardiac shunt
   identified.
   - given 2 L of [**12-12**] NS with improvement of BP
   - Sputum - Nothing seen on Gram stain, AFB pending
   - OSH LDH - Could not obtain (try again tomorrow).
   - started on tube feeds with free water flushes
   - persistent hypotension not significantly improved with IVF boluses,
   so started on levophed
   - second pressor (Neo) started @[**2131**] due to worsening hypotension (in
   the setting of fever)
   - given worsening hypotension, vasopressin started at 1AM, was able to
   take off neo around 2am
   - worsening respiratory acidosis on serial ABGs, dyssyncrhonous with
   the vent, peak pressures in the 30s.  held off on paralysis for now...
   - CXR showed nodules concerning for miliary TB so moved to negative
   pressure room to r/o TB
   Allergies:
   Darvon (Oral) (Propoxyphene Hcl)
   Confusion/Delir
   Tramadol
   Confusion/Delir
   Narcotic Analgesic   Non-Salicylate Comb
   Confusion
   Alte
   Last dose of Antibiotics:
   Vancomycin - [**2112-3-6**] 08:10 AM
   Piperacillin - [**2112-3-7**] 02:18 PM
   Ciprofloxacin - [**2112-3-8**] 01:56 AM
   Piperacillin/Tazobactam (Zosyn) - [**2112-3-8**] 02:55 AM
   Infusions:
   Norepinephrine - 0.3 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   Fentanyl (Concentrate) - 250 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2112-3-7**] 06:27 PM
   Heparin Sodium (Prophylaxis) - [**2112-3-8**] 01:57 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-3-8**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**13**] AM
   Tmax: 38.3
C (101
   Tcurrent: 36.6
C (97.9
   HR: 85 (83 - 114) bpm
   BP: 123/55(79) {62/34(44) - 128/64(82)} mmHg
   RR: 28 (15 - 33) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  5,069 mL
                                                                  1,075 mL
   PO:
             TF:
                                                                    118 mL
   IVF:
                                                                  4,401 mL
                                                                  1,075 mL
   Blood products:
   Total out:
                                                                    943 mL
                                                                    105 mL
   Urine:
                                                                    943 mL
                                                                    105 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,126 mL
                                                                    970 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (380 - 400) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 70%
   PIP: 40 cmH2O
   Plateau: 36 cmH2O
   SpO2: 95%
   ABG: 7.26/61/135/25/0
   Ve: 11.3 L/min
   PaO2 / FiO2: 193
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   210 K/uL
   9.2 g/dL
   143 mg/dL
   2.6 mg/dL
   25 mEq/L
   3.9 mEq/L
   60 mg/dL
   104 mEq/L
   139 mEq/L
   28.5 %
   13.9 K/uL
        [image002.jpg]
                             [**2112-3-7**]  01:38 AM
                             [**2112-3-7**]  03:00 AM
                             [**2112-3-7**]  12:00 PM
                             [**2112-3-7**]  04:47 PM
                             [**2112-3-7**]  08:58 PM
                             [**2112-3-7**]  11:02 PM
                             [**2112-3-8**]  12:04 AM
                             [**2112-3-8**]  01:35 AM
                             [**2112-3-8**]  04:04 AM
                             [**2112-3-8**]  04:40 AM
   WBC
   17.8
   13.9
   Hct
   29.6
   28.5
   Plt
   215
   210
   Cr
   2.3
   2.3
   2.6
   TCO2
   26
   30
   27
   29
   26
   29
   Glucose
   106
   106
   103
   143
   Other labs: PT / PTT / INR:14.1/31.5/1.2, ALT / AST:39/28, Alk Phos / T
   Bili:84/0.8, Differential-Neuts:94.8 %, Lymph:3.0 %, Mono:2.0 %,
   Eos:0.1 %, Lactic Acid:1.0 mmol/L, Albumin:2.8 g/dL, LDH:384 IU/L,
   Ca++:7.0 mg/dL, Mg++:2.0 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   85yo M with h/o HTN, CRI, anxiety, and recent admission at OSH for
   gastroenteritis, who is transfered from an OSH with worsening acute
   hypoxic respiratory failure and PNA.
   .
   # Hypoxic Respiratory Failure: Patient likely hypoxic secondary to PNA
   from aspiration per OSH records. Given progression, concern exists for
   possible [**Doctor Last Name 11**]/ARDS. His hypoxia is presently refractory to 70% FiO2,
   likely related to a shunt (?intracardiac vs airspace disease preventing
   sufficient recruitment). Further workup for causes of hypoxia (eg PE)
   limited given CRI so unable to obtain CTA. Some mention of improvement
   with diuresis today but no record re: LV function. Patient noted to
   desat on exam when laying flat with resolution when sitting up,
   concerning for CHF exacerbation. However was hypotensive after
   diuresis, without any improvement in saturation. Patient had received
   steroids at OSH. Given that unlikely COPD exacerbation given no prior
   history of COPD and lack of wheezing on exam, will not continue
   steroids.  TEE was performed and no intracardiac shunt was identified.
   Hypoxemia is likely [**1-12**] severe V/Q mismatch (with V/Q close to 0
 ie.
   Intrapulmonary shunt)
 though he was somewhat responsive to O2.  [**Month (only) 51**]
   have a component of ARDS in this picture.   CXR suggested TB.
   - as patient
s pressures worsened yesterday and oxygenation remained
   constant, decrease PEEP to improve preload
   - restricted tidal volume as per ARDS protocol
   - Continue broad spectrum abx with Vanc/Zosyn/cipro for now.
   - Endotracheal sputum cultures, blood cultures.
   - respiratory isolation for r/o TB
 get 3x induced sputum or get BAL
   sample, consider empiric treatment.
   - follow up fungal markers
 for consideration of  fungal infection
   - ID consult
 is empiric treatment for TB indicated?  Anti-fungal
   coverage?  Any other workup indicated?
   - Follow up cultures from OSH inc legionella, mycoplasma.
   - Considering Chest CT if stable and no other diagnostic clues
   - Keep net even for now given h/o CRI.
   # Hypotension: patient became acutely hypotensive o/n on [**3-7**], was
   depended on 3 pressors(levo/neo/vaso) initially, now weaned down to 2
   (levo/vaso).  Likely [**1-12**] sepsis, treating the underlying infection will
   improve this.
   - volume expansion with NS
   - wean sedation as tolerated
   - Holding lisinopril, will hold doxazosin.
   # Hypernatremia
 persistent, with hyperchloremia, now resolved.
   - free water flushes, 150 cc q4
   # Leukocytosis: Pt had leukocytosis on admission to OSH of 14. This has
   bumped to 27.9 at time of transfer.  Could represent progression of
   infection/PNA, but more likely a result of IV steroids given at OSH.
   Now down trending
   - Trend WBC
   - D/C
ed steroids as it was felt that his presentation was not c/w COPD
   exacerbation.
   - If hypersensitivity pneumonitis is thought to be a possible source,
   could reinitiate steroid therapy.  Will discuss with chest radiology if
   appearance on CXR could be consistent.
   # Chronic Renal Insufficiency: Baseline creatinine of 2 per OSH records
   and currently 2.6, from 1.9 at OSH at time of transfer.  Likely due to
   poor forward flow due to hypotension (likely severe sepsis).
   - Trend BUN/Cr.
   - Renally dose meds.
   - Avoid nephrotoxins.
   - Monitor UOP.
   # Aspiration: this is likely the source of his PNA based on OSH records
   and failed limited S+S eval at OSH when on bipap.
   - Tube feeds with nutrition recs
   - Treating aspiration PNA with abx as above.
   - When extubated will need S+S eval prior to eating.
   - HOB elevation, aspiration precautions.
   # Hyperlipidemia: Continue current regimen of pravastatin 10 mg QHS.
   #  FEN: IVF bolus PRN for low UOP, replete electrolytes PRN, NPO.
   # Access: PICC
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 HYPOTENSION (NOT SHOCK)
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2112-3-6**] 05:46 AM
   Arterial Line - [**2112-3-6**] 01:29 PM
   PICC Line - [**2112-3-7**] 11:30 AM
   Prophylaxis:
   DVT:  HSQ
   Stress ulcer:  famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2112-03-09 06:46:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Fungal Markers Pending: pnd
   - Checking Random Cortisol: 19.5, not likely AI
   - testing for flu, virus: pnd
   - ? Hypersensitivity pneumonitis: holding steroids but if radiologist
   thinks it's compatabile - rec: CT scan for better characterization,
   given time course likely edema vs. infection.
   - decreasing PEEP from 15 to 10, and reducing sedation, as increased
   PEEP did not allow decreased FiO2 and oversedation may contribute to
   hypotension
   - OSH LDH, culture data - suppose to fax to us, but did not get it.
   - ID rec: MiniBAL - GS, CX, KOH stain, PCP, [**Name Initial (NameIs) **].  Urine
   legionella/histo, Hanta virus sent out, try 1 dose of gentamycin
   (2mg/kg of dry wt).
   - renally dosing meds, vanco lvl in am.
   - overbreathing/disynchronise with the vent, went up on sedation, then
   went up on vent settings.
   Allergies:
   Darvon (Oral) (Propoxyphene Hcl)
   Confusion/Delir
   Tramadol
   Confusion/Delir
   Narcotic Analgesic   Non-Salicylate Comb
   Confusion
   Alte
   Last dose of Antibiotics:
   Piperacillin - [**2112-3-7**] 02:18 PM
   Vancomycin - [**2112-3-8**] 08:00 AM
   Ciprofloxacin - [**2112-3-9**] 12:37 AM
   Piperacillin/Tazobactam (Zosyn) - [**2112-3-9**] 01:58 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Midazolam (Versed) - 4 mg/hour
   Norepinephrine - 0.28 mcg/Kg/min
   Fentanyl (Concentrate) - 250 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2112-3-8**] 08:00 AM
   Midazolam (Versed) - [**2112-3-8**] 09:22 PM
   Fentanyl - [**2112-3-8**] 09:22 PM
   Heparin Sodium (Prophylaxis) - [**2112-3-9**] 12:37 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-3-9**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**13**] AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.7
C (98
   HR: 81 (76 - 95) bpm
   BP: 112/51(72) {88/44(20) - 134/62(85)} mmHg
   RR: 30 (17 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70.9 kg (admission): 70.7 kg
             Total In:
                                                                  2,317 mL
                                                                    871 mL
   PO:
             TF:
                                                                    262 mL
                                                                    258 mL
   IVF:
                                                                  1,815 mL
                                                                    443 mL
   Blood products:
   Total out:
                                                                    780 mL
                                                                    175 mL
   Urine:
                                                                    780 mL
                                                                    175 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,537 mL
                                                                    696 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 70%
   PIP: 37 cmH2O
   Plateau: 36 cmH2O
   SpO2: 100%
   ABG: 7.29/59/145/27/0
   Ve: 11.9 L/min
   PaO2 / FiO2: 207
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   188 K/uL
   9.1 g/dL
   141 mg/dL
   2.4 mg/dL
   27 mEq/L
   3.8 mEq/L
   60 mg/dL
   105 mEq/L
   138 mEq/L
   29.4 %
   14.7 K/uL
        [image002.jpg]
                             [**2112-3-8**]  04:40 AM
                             [**2112-3-8**]  10:34 AM
                             [**2112-3-8**]  12:00 PM
                             [**2112-3-8**]  03:22 PM
                             [**2112-3-8**]  04:36 PM
                             [**2112-3-8**]  08:30 PM
                             [**2112-3-8**]  11:54 PM
                             [**2112-3-9**]  01:33 AM
                             [**2112-3-9**]  04:59 AM
                             [**2112-3-9**]  05:40 AM
   WBC
   15.6
   14.7
   Hct
   28.9
   29.4
   Plt
   203
   188
   Cr
   2.4
   TCO2
   29
   26
   28
   26
   29
   27
   30
   Glucose
   156
   141
   Other labs: PT / PTT / INR:14.1/31.5/1.2, ALT / AST:39/28, Alk Phos / T
   Bili:84/0.8, Differential-Neuts:94.8 %, Lymph:3.0 %, Mono:2.0 %,
   Eos:0.1 %, Lactic Acid:1.1 mmol/L, Albumin:2.8 g/dL, LDH:384 IU/L,
   Ca++:7.7 mg/dL, Mg++:2.1 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   85yo M with h/o HTN, CRI, anxiety, and recent admission at OSH for
   gastroenteritis, who is transfered from an OSH with worsening acute
   hypoxic respiratory failure and PNA.
   .
   # Hypoxic Respiratory Failure: Patient likely hypoxic secondary to PNA
   from aspiration per OSH records. Given progression, concern exists for
   possible [**Doctor Last Name 11**]/ARDS.  Hypoxia was refractory to 70% FiO2, question if
   shunt (?intracardiac vs airspace disease preventing sufficient
   recruitment). Further workup for causes of hypoxia (eg PE) limited
   given CRI so unable to obtain CTA. Some mention of improvement with
   diuresis today but no record re: LV function. Patient noted to desat on
   exam when laying flat with resolution when sitting up, concerning for
   CHF exacerbation. However was hypotensive after diuresis, without any
   improvement in saturation. Patient had received steroids at OSH. Given
   that unlikely COPD exacerbation given no prior history of COPD and lack
   of wheezing on exam, will not continue steroids.  TEE was performed and
   no intracardiac shunt was identified.  Hypoxemia is likely [**1-12**] severe
   V/Q mismatch (with V/Q close to 0
 ie. Intrapulmonary shunt)
 though
   he was somewhat responsive to O2.  [**Month (only) 51**] have a component of ARDS in this
   picture.   CXR suggested TB.
   - as patient
s pressures worsened yesterday and oxygenation remained
   constant, decrease PEEP to improve preload
   - restricted tidal volume as per ARDS protocol
   - Continue broad spectrum abx with Vanc/Zosyn/cipro for now.
   - Endotracheal sputum cultures, blood cultures.
   - respiratory isolation for r/o TB
 get 3x induced sputum or get BAL
   sample, consider empiric treatment.
   - follow up fungal markers
 for consideration of  fungal infection
   - ID consult
 is empiric treatment for TB indicated?  Anti-fungal
   coverage?  Any other workup indicated?
   - Follow up cultures from OSH inc legionella, mycoplasma.
   - Considering Chest CT if stable and no other diagnostic clues
   - Keep net even for now given h/o CRI.
   # Hypotension: patient became acutely hypotensive o/n on [**3-7**], was
   depended on 3 pressors(levo/neo/vaso) initially, now weaned down to 2
   (levo/vaso).  Likely [**1-12**] sepsis, treating the underlying infection will
   improve this.
   - volume expansion with NS
   - wean sedation as tolerated
   - Holding lisinopril, will hold doxazosin.
   # Hypernatremia
 persistent, with hyperchloremia, now resolved.
   - free water flushes, 150 cc q4
   # Leukocytosis: Pt had leukocytosis on admission to OSH of 14. This has
   bumped to 27.9 at time of transfer.  Could represent progression of
   infection/PNA, but more likely a result of IV steroids given at OSH.
   Now down trending
   - Trend WBC
   - D/C
ed steroids as it was felt that his presentation was not c/w COPD
   exacerbation.
   - If hypersensitivity pneumonitis is thought to be a possible source,
   could reinitiate steroid therapy.  Will discuss with chest radiology if
   appearance on CXR could be consistent.
   # Chronic Renal Insufficiency: Baseline creatinine of 2 per OSH records
   and currently 2.6, from 1.9 at OSH at time of transfer.  Likely due to
   poor forward flow due to hypotension (likely severe sepsis).
   - Trend BUN/Cr.
   - Renally dose meds.
   - Avoid nephrotoxins.
   - Monitor UOP.
   # Aspiration: this is likely the source of his PNA based on OSH records
   and failed limited S+S eval at OSH when on bipap.
   - Tube feeds with nutrition recs
   - Treating aspiration PNA with abx as above.
   - When extubated will need S+S eval prior to eating.
   - HOB elevation, aspiration precautions.
   # Hyperlipidemia: Continue current regimen of pravastatin 10 mg QHS.
   #  FEN: IVF bolus PRN for low UOP, replete electrolytes PRN, NPO.
   # Access: PICC
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 HYPOTENSION (NOT SHOCK)
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2112-3-8**] 10:00 AM 45 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2112-3-6**] 05:46 AM
   Arterial Line - [**2112-3-6**] 01:29 PM
   PICC Line - [**2112-3-7**] 11:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2112-03-10 07:49:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2112-3-9**] 11:40 PM
   family meeting, goals of care
   Allergies:
   Darvon (Oral) (Propoxyphene Hcl)
   Confusion/Delir
   Tramadol
   Confusion/Delir
   Narcotic Analgesic   Non-Salicylate Comb
   Confusion
   Alte
   Last dose of Antibiotics:
   Piperacillin - [**2112-3-7**] 02:18 PM
   Vancomycin - [**2112-3-8**] 08:00 AM
   Ciprofloxacin - [**2112-3-9**] 11:41 PM
   Piperacillin/Tazobactam (Zosyn) - [**2112-3-10**] 02:00 AM
   Infusions:
   Norepinephrine - 0.15 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   Fentanyl (Concentrate) - 200 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2112-3-9**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2112-3-9**] 11:41 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-3-10**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**13**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.4
C (99.4
   HR: 66 (66 - 86) bpm
   BP: 126/51(76) {101/47(64) - 152/63(93)} mmHg
   RR: 30 (23 - 31) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70.9 kg (admission): 70.7 kg
             Total In:
                                                                  3,024 mL
                                                                    589 mL
   PO:
             TF:
                                                                  1,060 mL
                                                                    342 mL
   IVF:
                                                                  1,394 mL
                                                                    247 mL
   Blood products:
   Total out:
                                                                    835 mL
                                                                    310 mL
   Urine:
                                                                    635 mL
                                                                    220 mL
   NG:
                                                                    200 mL
                                                                     90 mL
   Stool:
   Drains:
   Balance:
                                                                  2,189 mL
                                                                    279 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 40 cmH2O
   Plateau: 36 cmH2O
   SpO2: 97%
   ABG: 7.29/60/104/26/0
   Ve: 11.8 L/min
   PaO2 / FiO2: 149
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   187 K/uL
   9.3 g/dL
   229 mg/dL
   2.4 mg/dL
   26 mEq/L
   4.5 mEq/L
   66 mg/dL
   103 mEq/L
   137 mEq/L
   29.8 %
   10.2 K/uL
        [image002.jpg]
                             [**2112-3-8**]  12:00 PM
                             [**2112-3-8**]  03:22 PM
                             [**2112-3-8**]  04:36 PM
                             [**2112-3-8**]  08:30 PM
                             [**2112-3-8**]  11:54 PM
                             [**2112-3-9**]  01:33 AM
                             [**2112-3-9**]  04:59 AM
                             [**2112-3-9**]  05:40 AM
                             [**2112-3-10**]  03:40 AM
                             [**2112-3-10**]  04:01 AM
   WBC
   15.6
   14.7
   10.2
   Hct
   28.9
   29.4
   29.8
   Plt
   [**Telephone/Fax (3) 14335**]
   Cr
   2.4
   2.4
   2.4
   TCO2
   28
   26
   29
   27
   30
   30
   Glucose
   156
   141
   129
   229
   Other labs: PT / PTT / INR:12.8/30.2/1.1, ALT / AST:26/22, Alk Phos / T
   Bili:97/0.7, Differential-Neuts:93.2 %, Lymph:4.2 %, Mono:2.1 %,
   Eos:0.3 %, Lactic Acid:1.1 mmol/L, Albumin:2.2 g/dL, LDH:291 IU/L,
   Ca++:8.0 mg/dL, Mg++:2.6 mg/dL, PO4:4.2 mg/dL
   PCP [**Name Initial (PRE) 13233**]: pending
   AFP ([**3-9**]): pending
   Histo, aspergillus, B-glucan ([**3-8**]): pending
   Legionella urine antigen: negative
   CXR ([**3-10**])
 my read: ETT 3.2 cm from carina.  Diffuse ground-glass
   opacities largely unchanged from yesterday.
   Assessment and Plan
   85yo M with h/o HTN, CRI, anxiety, and recent admission at OSH for
   gastroenteritis, who is transfered from an OSH with worsening acute
   hypoxic respiratory failure and PNA.
   .
   # Hypoxic Respiratory Failure: Patient likely hypoxic secondary to PNA
   from aspiration per OSH records, was given steroid at OSH for COPD
   exacerbation, but held as not likely the source. Given progression,
   concern exists for possible [**Doctor Last Name 11**]/ARDS.  Hypoxia was refractory to 70%
   FiO2, question if shunt, TTE r/o
d intracardiac shunt, responsive to
   80% and PEEP (usually relates to the level of sedation pt is getting)
   related to respiratory effort.  Hypercapnia is likely due to poor
   perfusion of the lung, with possible increased CO2 production in the
   peripheral tissues and dysynchrony with the vent.  Component of ARDS in
   this picture may also contribute to this.   CXR is questionable for
   infection/edema/granulomatous disease.  ID is following, recommending
   checking for PJP
   - Family meeting today for goals of care
   - Restricted tidal volume as per ARDS protocol
   - Continue broad spectrum abx with Vanc/Zosyn/cipro for now.
   - Endotracheal sputum cultures, blood cultures.
   - f/u ID recs
 sent for markers and mini-BAL
   - follow up fungal markers
 for consideration of  fungal infection
   # Hypotension: patient became acutely hypotensive o/n on [**3-7**], was
   transiently dependent on 3 pressors(levo/neo/vaso) initially, now
   weaned down to 2 (levo/vaso).  Likely [**1-12**] sepsis and sedation, and
   possible high PEEP.  We expect that treating the underlying infection
   may improve this.
   - volume expansion with NS as needed
   - wean sedation as tolerated
   - Holding lisinopril, doxazosin.
   # Leukocytosis: Pt had leukocytosis on admission to OSH of 14. This has
   bumped to 27.9 at time of transfer.  Could represent progression of
   infection/PNA, but more likely a result of IV steroids given at OSH.
   Continues to downtrend.
   - Trend WBC
   - Old CXR reviewed; showed perihilar opacities that could potentially
   represent initial lesions that have now progressed.  As this could
   potentially represent hypersensitivity pneumonitis, and because no
   infectious source has been identified, empirically restarted solumedrol
   yesterday 125 mg IV x 1.
   # Chronic Renal Insufficiency: Baseline creatinine of 2 per OSH records
   and currently 2.4, from 1.9 at OSH at time of transfer.  Likely due to
   poor forward flow due to hypotension (likely severe sepsis).
   - Trend BUN/Cr.
   - Renally dose meds.
   - Avoid nephrotoxins.
   - Monitor UOP.
   # Aspiration: this is likely the source of his PNA based on OSH records
   and failed limited S+S eval at OSH when on bipap.
   - Tube feeds with nutrition recs
   - Treating aspiration PNA with abx as above.
   - When extubated will need S+S eval prior to eating.
   - HOB elevation, aspiration precautions.
   # Hyperlipidemia: Continue current regimen of pravastatin 10 mg QHS.
   #  FEN: IVF bolus PRN for low UOP, replete electrolytes PRN, NPO.
   # Access: PICC
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2112-3-10**] 02:19 AM 45 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2112-3-6**] 05:46 AM
   Arterial Line - [**2112-3-6**] 01:29 PM
   PICC Line - [**2112-3-7**] 11:30 AM
   Prophylaxis:
   DVT: HSQ
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2112-03-11 07:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2112-3-10**]
   - on pressure control vent
   - AFB negative x 2
   - PCP negative
   [**Name Initial (PRE) **] [**Name9 (PRE) 14357**] negative
   - family meeting: to be discussed in more detail tomorrow
   Patient unable to provide history: Sedated
   Allergies:
   Darvon (Oral) (Propoxyphene Hcl)
   Confusion/Delir
   Tramadol
   Confusion/Delir
   Narcotic Analgesic   Non-Salicylate Comb
   Confusion
   Alte
   Last dose of Antibiotics:
   Vancomycin - [**2112-3-10**] 10:14 AM
   Ciprofloxacin - [**2112-3-10**] 11:55 PM
   Piperacillin/Tazobactam (Zosyn) - [**2112-3-11**] 02:00 AM
   Infusions:
   Vasopressin - 1.2 units/hour
   Midazolam (Versed) - 3 mg/hour
   Fentanyl (Concentrate) - 200 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2112-3-10**] 11:56 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-3-11**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**13**] AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 72 (49 - 74) bpm
   BP: 125/54(81) {72/39(50) - 193/86(127)} mmHg
   RR: 30 (15 - 32) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70.9 kg (admission): 70.7 kg
             Total In:
                                                                  2,162 mL
                                                                    136 mL
   PO:
             TF:
                                                                    901 mL
   IVF:
                                                                  1,111 mL
                                                                    136 mL
   Blood products:
   Total out:
                                                                    995 mL
                                                                    425 mL
   Urine:
                                                                    905 mL
                                                                    425 mL
   NG:
                                                                     90 mL
   Stool:
   Drains:
   Balance:
                                                                  1,167 mL
                                                                   -289 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+Assist
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 42 cmH2O
   Plateau: 31 cmH2O
   SpO2: 97%
   ABG: 7.28/57/113//0
   Ve: 12.3 L/min
   PaO2 / FiO2: 161
   Physical Examination
   General Appearance: No acute distress
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   152 K/uL
   7.7 g/dL
   229 mg/dL
   2.4 mg/dL
   26 mEq/L
   4.5 mEq/L
   66 mg/dL
   103 mEq/L
   137 mEq/L
   24.6 %
   11.4 K/uL
        [image002.jpg]
                             [**2112-3-8**]  04:36 PM
                             [**2112-3-8**]  08:30 PM
                             [**2112-3-8**]  11:54 PM
                             [**2112-3-9**]  01:33 AM
                             [**2112-3-9**]  04:59 AM
                             [**2112-3-9**]  05:40 AM
                             [**2112-3-10**]  03:40 AM
                             [**2112-3-10**]  04:01 AM
                             [**2112-3-10**]  12:38 PM
                             [**2112-3-11**]  05:47 AM
   WBC
   15.6
   14.7
   10.2
   11.4
   Hct
   28.9
   29.4
   29.8
   24.6
   Plt
   [**Telephone/Fax (3) 14358**]52
   Cr
   2.4
   2.4
   2.4
   TCO2
   26
   29
   27
   30
   30
   28
   Glucose
   141
   129
   229
   Other labs: PT / PTT / INR:12.5/27.3/1.1, ALT / AST:26/22, Alk Phos / T
   Bili:97/0.7, Differential-Neuts:93.2 %, Lymph:4.2 %, Mono:2.1 %,
   Eos:0.3 %, Lactic Acid:1.1 mmol/L, Albumin:2.2 g/dL, LDH:291 IU/L,
   Ca++:8.0 mg/dL, Mg++:2.6 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   85yo M with h/o HTN, CRI, anxiety, and recent admission at OSH for
   gastroenteritis, who is transfered from an OSH with worsening acute
   hypoxic respiratory failure and PNA.
   .
   # Hypoxic Respiratory Failure: Patient likely hypoxic secondary to PNA
   from aspiration per OSH records, was given steroid at OSH for COPD
   exacerbation, but held as not likely the source. Given progression,
   concern exists for possible [**Doctor Last Name 11**]/ARDS.  Hypoxia was refractory to 70%
   FiO2, question if shunt, TTE r/o
d intracardiac shunt, responsive to
   80% and PEEP (usually relates to the level of sedation pt is getting)
   related to respiratory effort.  Hypercapnia is likely due to poor
   perfusion of the lung, with possible increased CO2 production in the
   peripheral tissues and dysynchrony with the vent.  Component of ARDS in
   this picture may also contribute to this.   CXR is questionable for
   infection/edema/granulomatous disease. Review of [**Month (only) 2299**] Xrays reveals
   early stages of same process, prompting initation of steroids.
   Negative for PJP, fungal markers. ID is following.
   - Family meeting today for goals of care
   - Restricted tidal volume as per ARDS protocol
   - Continue broad spectrum abx with Vanc/Zosyn/cipro for now.
   - f/u CXR for interval improvement on steroids
   - f/u cxs
   - f/u ID recs
 sent for markers and mini-BAL
   -  consider diuresis with lasix gtt given possible radiographic
   evidence of pulmonary edema
   .
   # Hypotension: patient became acutely hypotensive o/n on [**3-7**], was
   transiently dependent on 3 pressors(levo/neo/vaso) initially, now
   weaned down to 2 (levo/vaso).  Blood pressure is downtrending as of [**3-10**]
   on this regimen. Likely [**1-12**] sepsis and sedation, and possible high
   PEEP.  We expect that treating the underlying infection may improve
   this. Old CXR reviewed; showed perihilar opacities that could
   potentially represent initial lesions that have now progressed.  As
   this could potentially represent hypersensitivity pneumonitis, and
   because no infectious source has been identified, empirically restarted
   solumedrol [**3-9**] 125 mg IV x 1.
   - volume expansion with NS as needed
   - wean sedation as tolerated
   - Holding lisinopril, doxazosin.
   .
   # Leukocytosis: Pt had leukocytosis on admission to OSH of 14. This has
   bumped to 27.9 at time of transfer,  Could represent progression of
   infection/PNA, but more likely a result of IV steroids given at OSH.
   Continues to downtrend, is 11 today.
   - Trend WBC
   - continue solumedrol empirically?
   .
   # Chronic Renal Insufficiency: Baseline creatinine of 2 per OSH records
   and currently 2.4, from 1.9 at OSH at time of transfer.  Likely due to
   poor forward flow due to hypotension (likely severe sepsis).
   - Trend BUN/Cr.
   - Renally dose meds.
   - Avoid nephrotoxins.
   - Monitor UOP.
   .
   # Aspiration: this is likely the source of his PNA based on OSH records
   and failed limited S+S eval at OSH when on bipap.
   - Tube feeds with nutrition recs
   - Treating aspiration PNA with abx as above.
   - If extubated, would need S+S eval prior to eating.
   - HOB elevation, aspiration precautions.
   .
   # Hyperlipidemia: Continue current regimen of pravastatin 10 mg QHS.
   .
   #  FEN: IVF bolus PRN for low UOP, replete electrolytes PRN, NPO.
   # Access: PICC
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2112-3-6**] 01:29 PM
   PICC Line - [**2112-3-7**] 11:30 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments: Family meeting
   Code status: DNR (do not resuscitate)
   Disposition: